US06110964
B) 3-Amino-8-oxabicyclo[3.2.1]octane-3-carboxylic Acid Ethyl Ester Hydrochloride
A two-phase mixture of 3-(benzhydrylideneamino)-8-oxabicyclo[3.2.1]octane-3-carboxylic acid ethyl ester (1.4 grams, 3.9 mmol) in aqueous 1N hydrochloric acid solution (100 mL) and diethyl ether (100 mL) was stirred at room temperature overnight. The aqueous layer was concentrated to provide the title compound (0.70 grams, 78%, a 3:1 mixture of exo/endo diastereomers) as a pale yellow solid.

reactant | 3-(benzhydrylideneamino)-8-oxabicyclo[3.2.1]octane-3-carboxylic acid ethyl ester | 3.9 mmol, 1.4 grams | C(C)OC(=O)C1(CC2CCC(C1)O2)N=C(C2=CC=CC=C2)C2=CC=CC=C2 | C23H25NO3
reactant | hydrochloric acid | 1N, 100 mL | Cl | ClH
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 3-Amino-8-oxabicyclo[3.2.1]octane-3-carboxylic Acid Ethyl Ester Hydrochloride | Cl.C(C)OC(=O)C1(CC2CCC(C1)O2)N | InChI=1S/C10H17NO3.ClH/c1-2-13-9(12)10(11)5-7-3-4-8(6-10)14-7;/h7-8H,2-6,11H2,1H3;1H
